US04654350
A mixture of 17.9 of 1-methyl-4-methylthio-1H-imidazo(4,5-c)pyridine (m.p. 170°-175°) and 28 g of o-chlorobenzylamine is heated to 170°-180° for 20 hours. After cooling and customary working up, 4-o-chlorobenzylamino-1-methyl-1H-imidazo(4,5-c)pyridine of m.p. 173°-176° is obtained.

reactant | 1-methyl-4-methylthio-1H-imidazo(4,5-c)pyridine | CN1C=NC=2C(=NC=CC21)SC | C8H9N3S
reactant | o-chlorobenzylamine | 28 g | ClC1=C(CN)C=CC=C1 | C7H8ClN
product | 4-o-chlorobenzylamino-1-methyl-1H-imidazo(4,5-c)pyridine | ClC1=C(CNC2=NC=CC3=C2N=CN3C)C=CC=C1 | C14H13ClN4
